US08222243B2
[5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-piperazin-1-yl-methanone, hydrochloride
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and N-Boc-piperazine by the method described in Example 2 Method B. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried then chromatographed on silica gel with EtOAc/hexanes (50%) as eluant to afford intermediate N-Boc protected product as a colorless solid (165 mg, 74%). The Boc-protected intermediate was dissolved in 1,4-dioxane (5 mL) and treated with a 4 N solution of hydrogen chloride in 1,4-dioxane and stirred for 12 hr, after which time the reaction mixture was evaporated to approximately ½ volume and diluted with ethyl ether (20 mL). The resulting solids were filtered and air dried to afford product as a colorless solid (131 mg, 69% overall). 1H NMR (D2O) 2.16 (s, 3 H), 3.22 (m, 4 H), 3.87 (m, 4 H), 7.34 (d, J=4.0, 1 H), 7.42 (d, J=4.0, 1 H). 19F NMR −63.6. LC/MS 4.34 min, [M+1]+ 346.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | N-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | [5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-piperazin-1-yl-methanone, hydrochloride | 131 mg, 69% | Cl.CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)N1CCNCC1 | InChI=1S/C14H14F3N3O2S.ClH/c1-8-11(19-22-12(8)14(15,16)17)9-2-3-10(23-9)13(21)20-6-4-18-5-7-20;/h2-3,18H,4-7H2,1H3;1H
